US04048191
EXAMPLE XV 4-Bromo-3-carboxy-5-p-chlorobenzoyl-1-methyl- pyrrole-2-acetic acid
A 17.8 g. sample of ethyl 4-bromo- 5-p-chlorobenzoyl-3-ethoxycarbonyl-1-methylpyrrole-2acetate in 200 ml of 25% sodium hydroxide is stirred at 95° C. for 2 hours. It is then poured into ice-hydrochloric acid and the resulting solid 4-bromo-3-carboxy-5-p-chlorobenzoyl-1- methylpyrrole-2-acetic acid is collected and dried; m.p. 261° -263° C.

reactant | ethyl 4-bromo- 5-p-chlorobenzoyl-3-ethoxycarbonyl-1-methylpyrrole-2acetate | BrC=1C(=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC(=O)OCC)C(=O)OCC | C19H19BrClNO5
solvent | sodium hydroxide | 200 ml | [OH-].[Na+]
product | 4-Bromo-3-carboxy-5-p-chlorobenzoyl-1-methyl- pyrrole-2-acetic acid | BrC=1C(=C(N(C1C(C1=CC=C(C=C1)Cl)=O)C)CC(=O)O)C(=O)O | C15H11BrClNO5
